US06281227B1
C. 2-Amino-4-(bromomethyl)benzonitrile
2.2′-Azobisisobutyronitrile (AIBN) (1.31 g, 8 mmol) is added to a solution of N-bromosuccinimide (6.87 g, 38 mmol) and 2-benzylideneamino-4-methylbenzonitrile (7 g, 31.8 mmol) in carbon tetrachloride (250 mL), and the reaction mixture refluxed under nitrogen overnight. The reaction mixture is cooled and filtered through a plug of celite, and the celite washed with carbon tetrachloride (100 mL). The combined filtrate is washed with 1N HCl, saturated aqueous NaHCO3, dried over MgSO4 and concentrated in vacuo. The crude product is purified by column chromatography on silica with 10-20% ethyl acetate/hexanes. The combined product fractions are concentrated, and the resulting sticky solid is washed with ethyl ether/hexanes to give the product as a pale yellow solid (3.26 g, 15 mmol).

reactant | 2.2′-Azobisisobutyronitrile | 8 mmol, 1.31 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 38 mmol, 6.87 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-benzylideneamino-4-methylbenzonitrile | 31.8 mmol, 7 g | C(C1=CC=CC=C1)=NC1=C(C#N)C=CC(=C1)C | C15H12N2
solvent | carbon tetrachloride | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Amino-4-(bromomethyl)benzonitrile | 15 mmol, 3.26 g | NC1=C(C#N)C=CC(=C1)CBr | C8H7BrN2
